US08871782B2
Ethyl 2-[(1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]acetate (1.6 g, 5.35 mmol) was added to a solution of potassium hydroxide (0.90 g, 0.16 mol) in a 50:50 mixture of methanol:water (30 mL). The solution was stirred under a nitrogen atmosphere until it was complete as evidenced by HPLC analysis. The methanol was removed under reduced pressure, and 6 N aqueous hydrochloric acid was added until the solution exhibited a neutral pH. A precipitate formed and was isolated by filtration to provide 1.25 g of 2-[(1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]acetic acid as a white solid, mp 290° C. (decomposition).

reactant | Ethyl 2-[(1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]acetate | 5.35 mmol, 1.6 g | CN1C(=NC=2C=NC=3C=CC(=CC3C21)OCC(=O)OCC)C | C16H17N3O3
reactant | potassium hydroxide | 0.16 mol, 0.90 g | [OH-].[K+]
reactant | methanol | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 2-[(1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]acetic acid | 1.25 g | CN1C(=NC=2C=NC=3C=CC(=CC3C21)OCC(=O)O)C | C14H13N3O3
